US04772600
2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide-4-oxide
A mixture of 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide (1.84 g, 0.0064 mole), glacial acetic acid, and m-chloroperbenzoic acid (4.4 g, 0.0256 mole) was heated at 60° C. for a total of 4 hrs. The reaction mixture was diluted with water and the organic acid which precipitated was filtered. The aqueous filtrate was neutralized for peroxides with 10% sodium sulfate. The aqueous solution was evaporated to dryness and the residue was treated with methylene chloride/saturated sodium bicarbonate. The insoluble precipitate was filtered, washed with methylene chloride and water, and dried at 50° C. under high vacuum overnight to give 1.0 g (52%) of title compound, mp. 272°-75° C. with decomposition.

reactant | 2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 0.0064 mole, 1.84 g | ClC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N | C14H11ClN4O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | m-chloroperbenzoic acid | 0.0256 mole, 4.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | water | O | H2O
product | 2-(4-Chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetamide-4-oxide | 1.0 g, 52% | ClC1=CC=C(C=C1)C1=NC=2C(=[N+](C=CC2)[O-])N1CC(=O)N | C14H11ClN4O2
